* C:\Users\lugfe\Documents\GitHub\ASSD\ASSD-TP3\offset\sim.asc
XU1 N002 N003 vcc -vcc N003 TL082
V1 vcc 0 15
V3 0 -vcc 15
R1 N002 0 4.7k
R2 menos5 N002 4.7k
XU2 N004 N001 vcc -vcc vout TL082
R3 vout N001 4.7k
R4 0 N004 4.7k
R5 N004 vin 4.7k
D2 vout mas5 1N5819
V4 vin 0 SINE(0 2.6 1k)
V5 mas5 0 5
V6 0 menos5 5
D3 0 vout 1N5819
R6 N001 N003 4k7
.model D D
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc C:\Users\lugfe\Documents\LTspiceXVII\lib\sub\TL082.301
.tran 0 10m 0
.backanno
.end
